US07312330B2
D. N-(4-tert-Butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidine (358 mg, 1 mmol) and 4-tert-butylaniline (179 mg, 1.2 mmol) in acetonitrile (2 mL) was heated via microwave in a sealed tube at 180° C. for 5 min. Solvent was removed and the residue was dissolved in water, extracted by ethyl acetate, dried over sodium sulfate and purified by column chromatography. The desired product was obtained as a white foam (120 mg).

reactant | 7-Benzyl-4-chloro-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidine | 1 mmol, 358 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)CN1CCOCC1 | C19H23ClN4O
reactant | 4-tert-butylaniline | 1.2 mmol, 179 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-(4-tert-Butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)CN1CCOCC1)CN(CC2)CC2=CC=CC=C2 | C29H37N5O
